US07256201B2
2) Synthetic Method B: Synthesis of 2-(4-hydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline-6-ol
A 1.0 M solution of boron tribromide in CH2Cl2 (0.54 mL) was added dropwise to a cooled (−15° C.) solution of 6-methoxy-2-(4-methoxyphenyl)-1,2,3,4-tetrahydroisoquinoline (0.036 g) in CH2Cl2 (1.4 mL). After 30 min the reaction was warmed to room temperature. After 2 h the reaction was diluted with CH2Cl2 (30 mL) and washed successively with saturated aqueous sodium bicarbonate (2×20 mL) and saturated aqueous sodium chloride (1×15 mL). The organic extract was dried and evaporated. The resulting residue was purified by chromatography on silica gel (eluant; a gradient of 0 to 20% methanol in dichloromethane) to give the title compound (0.026 g); MS: 242.0 (MH+); HPLC tR: 0.46 min; 1H NMR (DMSO-d6): 9.14 (s, 1H), 8.79 (s, 1H), 6.94 (d, 1H, J=6 Hz), 6.85 (d, 2H, J=6.65 (d, 2H J=9 Hz), 6.56 (d, 1H, J=6 Hz), 6.52 (s, 1H), 4.06.(s, 2H), 3.28 (t, 2H, J=6 Hz), 2.78 (t, 2H, J=6 Hz).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-2-(4-methoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 0.036 g | COC=1C=C2CCN(CC2=CC1)C1=CC=C(C=C1)OC | C17H19NO2
solvent | CH2Cl2 | 0.54 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-hydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline-6-ol | 0.026 g | OC1=CC=C(C=C1)N1CC2=CC=C(C=C2CC1)O | C15H15NO2
